US05277838
0.94 g (0.024 mmol of Pt) of 0.5% strength dicyclopentadienylplatinum dichloride solution (dichloromethane) was added to a solution of 20.0 g (47.2 mmol) of 4-octyloxyphenyl 4-(5-hexenyloxy)benzoate and 7.10 g (48.0 mmol) of pentamethyldisiloxane in 20.0 g of toluene, and the mixture was refluxed for 5 hours. After complete hydrosilylation of the olefin, the reaction mixture was flushed with nitrogen, and the toluene was removed by vacuum distillation on a rotary evaporator. The crude product was purified by chromatography on silica gel. The 4-octyloxyphenyl 4-(6-pentamethyldisiloxanylhexyloxy)benzoate obtained was additionally recrystallized from ethanol and exhibited the following phase behavior: c 38 s 50 i.

reactant | 4-octyloxyphenyl 4-(5-hexenyloxy)benzoate | 47.2 mmol, 20.0 g | C(CCCC=C)OC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCCCC)C=C1 | C27H36O4
reactant | pentamethyldisiloxane | 48.0 mmol, 7.10 g | C[SiH](O[Si](C)(C)C)C | C5H16OSi2
solvent | toluene | 20.0 g | C1(=CC=CC=C1)C | C7H8
catalyst | dicyclopentadienylplatinum dichloride | C1(C=CC=C1)[Pt](C1C=CC=C1)(Cl)Cl
product | 4-octyloxyphenyl 4-(6-pentamethyldisiloxanylhexyloxy)benzoate | C[Si](O[Si](C)(C)C)(CCCCCCOC1=CC=C(C(=O)OC2=CC=C(C=C2)OCCCCCCCC)C=C1)C | C32H52O5Si2
